US05866567
(3aR*,10aS*)-9-[4-(Benzyloxycarbonylamino)benzyl]-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
(3aR*,10aS*)-9-[4-(Benzyloxycarbonylamino)benzyl]-4-(bromoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][l,4]diazepin-10(1H)-one (496 mg, 0.88 mmol) and potassium phthalimide (172 mg, 0.93 mmol) were suspended in DMF (3 mL) and the suspension was stirred at room temperature for 1 hour. This reaction mixture was diluted with water and extracted with 3 portions of chloroform. The pooled organic layer was washed with water, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was crystallized from ethanol to provide 495 mg (yield 89%) of the title compound. m.p. 144°-147° C.

reactant | (3aR*,10aS*)-9-[4-(Benzyloxycarbonylamino)benzyl]-4-(bromoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][l,4]diazepin-10(1H)-one | 0.88 mmol, 496 mg | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(CN2C3=C(N([C@H]4[C@@H](C2=O)CCC4)C(CBr)=O)C=CC=C3)C=C1 | C29H28BrN3O4
reactant | potassium phthalimide | 0.93 mmol, 172 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (3aR*,10aS*)-9-[4-(Benzyloxycarbonylamino)benzyl]-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 495 mg, yield 89% | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(CN2C3=C(N([C@H]4[C@@H](C2=O)CCC4)C(CN4C(C=2C(C4=O)=CC=CC2)=O)=O)C=CC=C3)C=C1 | C37H32N4O6
